US04223142
(c) 2-Butylamino-5-cyano-6-methyl-3-pyridine-carboxylic acid, ethyl ester
112 g of 2-chloro-5-cyano-6-methyl-3-pyridine-carboxylic acid, ethyl ester (0.5 mol) are dissolved in 300 ml of alcohol and 73 g of n-butylamine are dropped in at reflux temperature with stirring. After the addition is completed, the mixture is refluxed for an additional hour and then poured onto ice. 2-butylamino-5-cyano-6-methyl-3-pyridine-carboxylic acid, ethyl ester precipitates. Yield 116 g (89%); m.p. 61°-63° C. (petrol ether).

reactant | 2-chloro-5-cyano-6-methyl-3-pyridine-carboxylic acid, ethyl ester | 0.5 mol, 112 g | ClC1=NC(=C(C=C1C(=O)OCC)C#N)C | C10H9ClN2O2
reactant | n-butylamine | 73 g | C(CCC)N | C4H11N
product | 2-Butylamino-5-cyano-6-methyl-3-pyridine-carboxylic acid, ethyl ester | C(CCC)NC1=NC(=C(C=C1C(=O)OCC)C#N)C | C14H19N3O2
